US08871937B2
7-[(6-methyl-pyridin-2-ylamino)-(4-trifluoromethyl-phenyl)-methyl]-quinolin-8-ol
The title compound was prepared by both method A and method B presented for the compound of Example 1 with the change that 4-trifluoromethyl benzaldehyde (Sigma), 2-amino-6-picoline and 8-hydroxy-quinoline were used as starting materials. Product obtained (method B): C23H18F3N3O (MW: 409.1); 229 mg, 32.5%); m.p.: 136-138° C.; HPLC (CH3CN/H2O 70:30 Phenomenex C18 254 nm): Tr=10.18 min.

reactant | 4-trifluoromethyl benzaldehyde | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
reactant | 2-amino-6-picoline | NC1=NC(=CC=C1)C | C6H8N2
reactant | 8-hydroxy-quinoline | OC=1C=CC=C2C=CC=NC12 | C9H7NO
solvent | CH3CN H2O | CC#N.O
product | 7-[(6-methyl-pyridin-2-ylamino)-(4-trifluoromethyl-phenyl)-methyl]-quinolin-8-ol | CC1=CC=CC(=N1)NC(C1=CC=C2C=CC=NC2=C1O)C1=CC=C(C=C1)C(F)(F)F | C23H18F3N3O
